US07514566B2
N-(4-((Dimethylamino)methyl)thiazol-2-yl)acetamide
N-(4-(Chloromethyl)thiazol-2-yl)acetamide (2.0 g, 10 mmol) in 20 mL THF was added in portions to dimethylamine (4.7 g, 105 mmol). After addition, the mixture was stirred for an additional 30 minutes. The solvent was removed under reduced pressure. 200 mL distilled water was then added to the resulting residue, and the mixture was extracted with EtOAc. The EtOAc solution was washed with brine solution and dried over sodium sulfate. After removing the solvent, an off-white solid was obtained as the crude product (1.3 g, yield=80%). LCMS (API-ES) m/z (%) 200.1 (100%, M++H). 1H NMR (400 MHz, CDCl3) δ ppm 2.24 (s, 3H) 2.26 (s, 6H) 3.43 (s, 2H) 6.73 (s, 1H).

reactant | N-(4-(Chloromethyl)thiazol-2-yl)acetamide | 10 mmol, 2.0 g | ClCC=1N=C(SC1)NC(C)=O | C6H7ClN2OS
reactant | dimethylamine | 105 mmol, 4.7 g | CNC | C2H7N
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | N-(4-((Dimethylamino)methyl)thiazol-2-yl)acetamide | 1.3 g, yield=80% | CN(C)CC=1N=C(SC1)NC(C)=O | C8H13N3OS
